US06858651B2
In analogy to examples 29.10 and 29.11, trans-Methansulfonic acid 5-(4-methyl amino-cyclohexyl)-pentyl ester-Trifluoroacetic acid salt and 3,4-difluoro-phenyl chloroformate were reacted, followed by treatment with N-allylmethylamine to yield trans-{4-[5-(Allyl-methyl-amino)-pentyl]-cyclohexyl}-methyl-carbamic acid 3,4-difluoro-phenyl ester, MS: 409 (MH+).

reactant | trans-Methansulfonic acid 5-(4-methyl amino-cyclohexyl)-pentyl ester-Trifluoroacetic acid salt | FC(C(=O)O)(F)F.CN[C@@H]1CC[C@H](CC1)CCCCCOS(=O)(=O)C
reactant | 3,4-difluoro-phenyl chloroformate | ClC(=O)OC1=CC(=C(C=C1)F)F | C7H3ClF2O2
reactant | N-allylmethylamine | C(C=C)CN | C4H9N
product | trans-{4-[5-(Allyl-methyl-amino)-pentyl]-cyclohexyl}-methyl-carbamic acid 3,4-difluoro-phenyl ester | FC=1C=C(C=CC1F)OC(N(C)[C@@H]1CC[C@H](CC1)CCCCCN(C)CC=C)=O | C23H34F2N2O2
